US07507729B2
a) (4-Methyl-3-oxo-2,3-dihydro-pyrazol-1-yl)-acetic acid ethyl ester
As described for example 320a, 4-methyl-2-pyrazolin-5-one was reacted with ethyl bromoacetate and potassium carbonate. Extractive workup followed by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound as a white solid (yield: 16%). MS: m/e=185.0 [M+H]+.

reactant | 4-methyl-2-pyrazolin-5-one | CC1C=NNC1=O | C4H6N2O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Methyl-3-oxo-2,3-dihydro-pyrazol-1-yl)-acetic acid ethyl ester | yield: 16% | C(C)OC(CN1NC(C(=C1)C)=O)=O | C8H12N2O3
